* /Users/league/Desktop/Level-2/Lesson 7/Photosensor.asc
V1 N001 0 9V Rser=0
R1 N001 Vb 12.1K
Q1 N001 Vb P001 0 NPN
R2 Vb 0 {Rp}
R3 P001 VLED 162
D1 VLED 0 WP710A10QBC-2
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.bjt
.lib LTSpice/WP710A10QBC.SP3
.tran 0 1ms 1us startup
.step param Rp 5K 20K 5K
.backanno
.end
