* /Users/league/Desktop/Level-2/Lesson 8/LTSpice/Parallel Resistor Network.asc
V1 C 0 9V
R1 C 0 100K tol=1 pwr=0.1
R2 C 0 {Rt}
.tran 0 1ms 0ms 1us startup
.step param Rt 80K 480K 80K
.backanno
.end
